US08791100B2
1. Azetidine-3-carboxylic acid methyl ester hydrochloride, INT 1
To a solution of 1-(tert-butoxycarbonyl)azetidine-3-carboxylic acid (8.00 g, 39.8 mmol) in MeOH (60 mL) was added 4 M HCl in dioxane (60 mL, 240.0 mmol). The mixture was refluxed for 2 hours. The mixture was concentrated to afford INT 1.

reactant | 1-(tert-butoxycarbonyl)azetidine-3-carboxylic acid | 39.8 mmol, 8.00 g | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)O | C9H15NO4
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 240.0 mmol, 60 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 60 mL | CO | CH4O
product | Azetidine-3-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C1CNC1 | InChI=1S/C5H9NO2.ClH/c1-8-5(7)4-2-6-3-4;/h4,6H,2-3H2,1H3;1H
